US06683201B2
In analogy to example 17.1, reaction of [4-(4-Bromo-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester with 10 eq dimethylamine (33% in ethanol, 5.6 M) yielded [4-(4-Dimethylamino-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester; compound with formic acid, MS: 377 (MH+).

reactant | [4-(4-Bromo-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)OCCCCBr)=O | C18H19BrClNO3
reactant | dimethylamine | 5.6 M, 10 eq | CNC | C2H7N
product | [4-(4-Dimethylamino-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester; compound with formic acid | C(=O)O.ClC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)OCCCCN(C)C)=O | InChI=1S/C20H25ClN2O3.CH2O2/c1-22(2)14-4-5-15-25-18-12-8-17(9-13-18)23(3)20(24)26-19-10-6-16(21)7-11-19;2-1-3/h6-13H,4-5,14-15H2,1-3H3;1H,(H,2,3)
